US08629160B2
Preparation of (R)-quinuclidin-3-yl 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetate (C74)
A mixture of 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetic acid (I73) (265 mg, 0.93 mmol), (R)-quinuclidin-3-ol (129 mg, 1.02 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (156 mg, 1.02 mmol), and N,N′-methanediylidenedicyclohexanamine (210 mg, 1.02 mmol) was dissolved in THF (10 ml) and stirred at room temperature overnight. The solvent was evaporated, and the crude product was taken up with EtOAc and washed twice with 2M K2CO3. The organic phase was dried over Na2SO4, filtered and evaporated to dryness to obtain the title compound, which was used in the next step without any further purification.

reactant | 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetic acid | 0.93 mmol, 265 mg | C(C)C=1C=C(C=CC1)NC(C(=O)O)C=1C=NC(=CC1)OC | C16H18N2O3
reactant | (R)-quinuclidin-3-ol | 1.02 mmol, 129 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 1.02 mmol, 156 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | N,N′-methanediylidenedicyclohexanamine | 1.02 mmol, 210 mg | C(=NC1CCCCC1)=NC1CCCCC1 | C13H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetate | C(C)C=1C=C(C=CC1)NC(C(=O)O[C@H]1CN2CCC1CC2)C=2C=NC(=CC2)OC | C23H29N3O3
